US09422279B2
To a solution of (5-phenyl-1,2,3,6-tetrahydropyridin-4-yl)methanol hydrochloride (230 mg, 1.04 mmol) in ACN (10 mL) was added Et3N (0.15 mL, 1.04 mmol) followed by formalin (340 mg, 4.16 mmol). After stirred at room temperature for 10 min, it was added Na(OAc)3BH (440 mg, 2.08 mmol) and was stirred for 30 min, the mixture was concentrated to remove most of the ACN, and the residue was diluted with CHCl3, organic layer was washed with Sat. NaHCO3, brine, dried and concentrated to give crude product, which was purified by column (DCM/MeOH=9:1) to give (1-methyl-5-phenyl-1,2,3,6-tetrahydropyridin-4-yl)methanol (140 mg).

reactant | (5-phenyl-1,2,3,6-tetrahydropyridin-4-yl)methanol hydrochloride | 1.04 mmol, 230 mg | Cl.C1(=CC=CC=C1)C1=C(CCNC1)CO
reactant | Et3N | 1.04 mmol, 0.15 mL | CCN(CC)CC | C6H15N
reactant | formalin | 4.16 mmol, 340 mg | C=O | CH2O
reactant | Na(OAc)3BH | 2.08 mmol, 440 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | ACN | 10 mL | C(C)#N | C2H3N
product | (1-methyl-5-phenyl-1,2,3,6-tetrahydropyridin-4-yl)methanol | 140 mg | CN1CCC(=C(C1)C1=CC=CC=C1)CO | C13H17NO
